US05521160
A solution of 38.0 g of (3-bromo-benzyl)-triphenylphosphonium bromide, known from the literature, in 250 ml of tetrahydrofuran was treated at -10° C. with 8.75 g of potassium tert.-butylate and stirred for 3 minutes. A solution of 14.8 g of 4-bromobenzaldehyde was added dropwise to the yellow-orange suspension within 15 minutes. After stirring for 60 minutes the reaction mixture was concentrated. The residue was treated with ice-water and extracted with ethyl acetate/ether. The organic phases were washed with water and saturated aqueous sodium chloride solution, dried over magnesium sulfate and evaporated. The residue was chromatographed over silica gel with hexane and hexane/ether 99:1 and gave (E)-3,4'-dibromostilbene as colourless crystals, MS: m/z 338 (M+), as well as (Z)-3,4'-dibromostilbene as a colourless oil, MS: m/z 338 (M+).

reactant | (3-bromo-benzyl)-triphenylphosphonium bromide | 38.0 g | [Br-].BrC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1
reactant | 4-bromobenzaldehyde | 14.8 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (E)-3,4'-dibromostilbene | BrC=1C=C(C=CC1)\C=C\C1=CC=C(C=C1)Br | C14H10Br2
